US06995162B2
2-Bromo-N-(4-methoxy-benzyl)-N-(2-methyl-allyl)-5-nitro-benzamide
To a suspension of NaH (1.22 g) in DMF (130 ml) was added 2-bromo-N-(4-methoxy-benzyl)-5-nitro-benzamide (6.2 g) in DMF (60 ml) at −78° C. The mixture was warmed to 0° C., 3-bromo-2-methyl-propene (4.57 g) was added and the mixture was stirred for 2 h at 0° C. The reaction was poured into ice water, extracted with EtOAc (2×400 ml), dried over MgSO4, filtered and concentrated to a DMF solution which was used without further purification.

reactant | NaH | 1.22 g | [H-].[Na+]
reactant | 2-bromo-N-(4-methoxy-benzyl)-5-nitro-benzamide | 6.2 g | BrC1=C(C(=O)NCC2=CC=C(C=C2)OC)C=C(C=C1)[N+](=O)[O-] | C15H13BrN2O4
reactant | 3-bromo-2-methyl-propene | 4.57 g | BrCC(=C)C | C4H7Br
solvent | DMF | 130 ml | CN(C)C=O | C3H7NO
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 2-Bromo-N-(4-methoxy-benzyl)-N-(2-methyl-allyl)-5-nitro-benzamide | BrC1=C(C(=O)N(CC(=C)C)CC2=CC=C(C=C2)OC)C=C(C=C1)[N+](=O)[O-] | C19H19BrN2O4
